US04421753
N-Cyano-4-(p-fluorobenzyl)-1-piperazinecarboximidothioic acid, methyl ester
A 28.7 g. (0.1 mole) portion of N-(p-fluorobenzyl)piperazine was dissolved in 25 ml. of ethanol and then added dropwise over 30 minutes to a stirred solution of 14.6 g. (0.1 mole) of dimethyl cyanodithioiminocarbonate in 200 ml. of ethanol. The mixture was refluxed for 6 hours, the evolved gas being led through a sodium hypochlorite trap. The mixture was then evaporated to a syrup.

reactant | N-(p-fluorobenzyl)piperazine | FC1=CC=C(CN2CCNCC2)C=C1 | C11H15FN2
reactant | dimethyl cyanodithioiminocarbonate | 0.1 mole | CSC(=NC#N)SC | C4H6N2S2
solvent | ethanol | C(C)O | C2H6O
product | N-Cyano-4-(p-fluorobenzyl)-1-piperazinecarboximidothioic acid, methyl ester | C(#N)N=C(SC)N1CCN(CC1)CC1=CC=C(C=C1)F | C14H17FN4S
